US07795236B2
3-Methoxy-4-phenylbenzaldehyde
To an ice-cold solution of 4-hydroxy-3-methoxy-benzaldehyde (1.00 g) in dichloromethane (22 mL) was added triethylamine (1.37 mL). Then trifluoromethanesulfonic anhydride (1.40 mL) was added dropwise, and the resulting mixture was stirred under ice-cooling for 45 minutes. Ice was added and the whole was partitioned between AcOEt (60 mL) and saturated aqueous sodium hydrogen carbonate (30 mL). The organic layer was washed successively with water/brine (3/1, 40 mL) and brine (30 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue (1.98 g) was dissolved in N,N-dimethylformamide (25 mL). Phenylboronic acid (0.882 g), sodium carbonate (1.39 g), water (5 mL) and tetrakis(triphenyl-phosphine)palladium(0) (0.380 g) were added, and the resulting mixture was stirred at 80° C. for 2.5 hours. The reaction mixture was cooled to room temperature and then partitioned between ethyl acetate (70 mL) and water (30 mL). The organic layer was washed with water/brine (1/1, 30 mL×2), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=10/1 to 5/1) to give the title compound (1.12 g).

reactant | 4-hydroxy-3-methoxy-benzaldehyde | 1.00 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | triethylamine | 1.37 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 1.40 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 22 mL | ClCCl | CH2Cl2
product | 3-Methoxy-4-phenylbenzaldehyde | 1.12 g | COC=1C=C(C=O)C=CC1C1=CC=CC=C1 | C14H12O2
